US04960900
Preparation of 5-(1-n-butoxyiminoethyl)-4-methylthiazole
15.61 g (0.1 mol) of 5-(1-hydroxyiminoethyl)-4-methylthiazole and 115 ml of butan-1-ol are introduced into a 500 ml three-necked flask provided with a condenser, a dropping funnel, a thermometer and a magnetic stirrer. 39.38 g (0.15 mol) of triphenylphosphine dissolved in 45 ml of tetrahydrofuran, and 34.86 g (0.2 mol) of diethyl azodicarboxylate dissolved in 65 ml of butan-1-ol, are added to the resulting mixture. The reaction medium obtained is stirred at room temperature (15°-20° C.) for 36 h. After the insoluble material has been separated off by filtration on a glass frit, the filtrate is evaporated to dryness under vacuum. The evaporation residue is taken up several times with hexane. The organic phases are combined and concentrated to dryness under vacuum. 20.2 g (yield: 95.1%) of the expected product are obtained in the form of a yellow oil. The IR spectrum conforms to the proposed structure. The product is a mixture of E and Z isomers in the weight ratio and molar ratio E/Z=89/11.

reactant | 5-(1-hydroxyiminoethyl)-4-methylthiazole | 0.1 mol, 15.61 g | ON=C(C)C1=C(N=CS1)C | C6H8N2OS
reactant | triphenylphosphine | 0.15 mol, 39.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.2 mol, 34.86 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | butan-1-ol | 65 ml | C(CCC)O | C4H10O
solvent | butan-1-ol | 115 ml | C(CCC)O | C4H10O
product | 5-(1-n-butoxyiminoethyl)-4-methylthiazole | 20.2 g, yield: 95.1% | C(CCC)ON=C(C)C1=C(N=CS1)C | C10H16N2OS
